US05223539
N-cyclohexyl-4-[(3,4-dimethoxyphenyl)hydroxymethyl]-N-(1-methylethyl)benzamide
To a stirred solution of 4-bromoveratrole (0.77 ml, 6.0 mmol) in ethyl ether (30 mL) at 0° C. under an argon atmosphere was added n-butyl lithium (3.75 mL of 1.6 M solution in hexane). A white precipitate formed and tetrahydrofuran (THF) (10 mL) was added. The reaction mixture was cooled to -20° C. and a solution of terephthalaldehydic acid N-isopropyl-N-cyclohexyl amide (0.82 g, 3.0 mmol) in THF: ethyl ether (4:3, 35 mL) was added rapidly. Thin layer chromatography (TLC) (50% ethyl acetate/hexane) after 5 min showed the reaction was nearly complete. The reaction was quenched at -15° C. by adding water (50 mL) and 1N HCl(20 mL). The reaction was further diluted with water (300 mL) and extracted three times with ethyl acetate (50 mL portions). The combined extracts were washed twice with saturated NaCl solution and dried (MgSCO4). The drying agent was filtered and the filtrate concentrated in vacuo to give the crude product. The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as an amorphous solid.

reactant | 4-bromoveratrole | 6.0 mmol, 0.77 ml | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | n-butyl lithium | 1.6 M, 3.75 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | terephthalaldehydic acid N-isopropyl-N-cyclohexyl amide | 3.0 mmol, 0.82 g | C(C)(C)N(C(C1=CC=C(C=O)C=C1)=O)C1CCCCC1 | C17H23NO2
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | THF ethyl ether | 35 mL | O1CCCC1.C(C)OCC
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-cyclohexyl-4-[(3,4-dimethoxyphenyl)hydroxymethyl]-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)C(O)C1=CC(=C(C=C1)OC)OC)=O)C(C)C | C25H33NO4
